Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Morphine
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain 
 
Major Surgical or Invasive Procedure:
Liver Biopsy
 
History of Present Illness:
___ yo F with history of autoimmune hepatitis dx over ___ yrs ago 
(previously on prednisone), ADHD presents with worsening 
abdominal pain, nausea and transaminitis. The patient reports 
that she developed nausea and abdominal pain on ___. She 
went to her PCP on ___. Over the weekend she had worsening 
abdominal apin in both the upper left/right quadrants. She had 
nausea, but no episodes of vomiting. She reports the pain as an 
___ and constant with episodes of sharp/stabbing pains. Over 
the weekend she noticed her skin getting progressively yellow, 
dark urine and ___ color stools. She also had worsening 
fatigue. She was called by her PCP who told her that her liver 
enzymes were elevated and to go to the ED.  
.  
In the ED, VS: 98.4 85 143/82 16 100%RA. She had elevated LFT 
with ALT:931, AST:911 and TBili: 2.0. She also underwent a RUQ 
U/S that showed fatty liver without focal lesion. Contracted GB 
without stone.  
.  
Currently, the patient continues to have abdominal pain and 
nausea.  
.  
The patient was seen by Dr. ___ in the ___ in ___. ___ 
years prior she had been diagnosed with autoimmune hepatitis at 
___. She underwent biopsy at that time and was treated with 
prednisone. Her LFT normalized and she stopped the prednisone. 
However, in ___ her LFT were again elevated(___ 
___) ALT 431 IU/L, AST 342 and referred to the Liver 
Center. They performed further work-up and her labs were only 
remarkable for + smooth-muscle antibody. She did not ___ 
with her appointment.  
ROS: The patient denies any fevers, chills, diarrhea, 
constipation, melena, hematochezia, chest pain, shortness of 
breath, orthopnea, PND, lower extremity edema, cough, urinary 
frequency, urgency, dysuria, lightheadedness, gait unsteadiness, 
focal weakness, vision changes, headache, rash or skin changes.  


 
Past Medical History:
Autoimmune Hepatitis approximately ___ years ago at ___  
Melanoma  
ADHD, anxiety  
Hypertension  
Chronic lower back pain  
PAST SURGICAL HISTORY  
Removal of melanoma  
Myomectomy for uterine fibroids – ___  

 
Social History:
___
Family History:
Father: CAD, CABG at ___ old  
There is no family history of liver disease or liver cancer 

 
Physical Exam:
PE: T:97.6 BP:146/95 HR:111 RR:18 O2 100% RA  
Gen: NAD/ mild pain/ appears stated age/ tearful  
HEENT: AT/NC, PERRLA, EOMI, scleral icterus, no conjuctival 
pallor, MMM, clear oropharynx, no erythema, no exudates no 
rhinorrhea/ discharge  
NECK: supple, trachea midline, no LAD, no thyromegaly  
LUNG: CTA-B/L, no R/R/W  
CV: S1&S2, RRR, no R/G/M  
JVD: flat  
ABD: obese, soft/+BS/ +tenderness in the right upper and left 
upper qudrants/ ND/no rebound/ no guarding/ difficult given 
habitus to palpate liver  
EXT: No C/C/E, no asterixis  
+___P, ___ b/l & symetrical  
SKIN: mild jaundice, no other lesions, rashes, bruises  
NEURO: AAOx3  
CN II-XII grossly intact and non-focal b/l  
___ strength in upper and lower ext b/l  
Sensation to pain, temp, position intact b/l  
Reflexes ___ brachioradialis, biceps, triceps, patellar, 
Achilles  
Toes upgoing  
Unremarkable finger/nose, unremarkable rapid/alternating  
PSYCH: Listens and responds to questions appropriately, pleasant 
 

 
Pertinent Results:
CBC
___ 09:38PM BLOOD WBC-4.6 RBC-4.94 Hgb-10.0* Hct-34.4* 
MCV-70* MCH-20.2* MCHC-28.9* RDW-15.8* Plt ___
___ 09:38PM BLOOD Neuts-58.3 ___ Monos-4.7 Eos-2.8 
Baso-0.7
___ 05:20AM BLOOD WBC-3.5* RBC-4.29 Hgb-9.1* Hct-28.6* 
MCV-67* MCH-21.2* MCHC-31.7 RDW-17.0* Plt ___
___ 05:20AM BLOOD Neuts-56.5 ___ Monos-4.8 Eos-2.7 
Baso-0.8
___ 05:10AM BLOOD WBC-4.7 RBC-4.11* Hgb-8.5* Hct-28.7* 
MCV-70* MCH-20.6* MCHC-29.5* RDW-16.5* Plt ___
___ 05:20AM BLOOD WBC-6.1 RBC-4.76 Hgb-9.6* Hct-33.5* 
MCV-70* MCH-20.2* MCHC-28.8* RDW-16.7* Plt ___
___ 07:05AM BLOOD WBC-9.7# RBC-4.52 Hgb-9.0* Hct-32.2* 
MCV-71* MCH-19.8* MCHC-27.9* RDW-17.2* Plt ___
___ 07:50AM BLOOD WBC-10.1 RBC-4.33 Hgb-9.2* Hct-29.7* 
MCV-69* MCH-21.2* MCHC-30.9*# RDW-19.5* Plt ___
___ 07:10AM BLOOD WBC-9.9 RBC-4.27 Hgb-9.0* Hct-29.1* 
MCV-68* MCH-21.2* MCHC-31.1 RDW-19.7* Plt ___
___ 07:00AM BLOOD WBC-8.5 RBC-4.13* Hgb-9.0* Hct-29.8* 
MCV-72* MCH-21.9* MCHC-30.3* RDW-18.4* Plt ___

Coags
___ 12:35PM BLOOD ___ PTT-31.4 ___
___ 05:20AM BLOOD ___ PTT-32.3 ___
___ 05:10AM BLOOD ___ PTT-33.3 ___
___ 05:20AM BLOOD ___ PTT-30.4 ___
___ 07:05AM BLOOD ___ PTT-30.5 ___
___ 07:50AM BLOOD ___ PTT-31.2 ___
___ 07:10AM BLOOD ___ PTT-32.4 ___
___ 07:00AM BLOOD ___ PTT-32.4 ___

Renal & Glucose
___ 09:38PM BLOOD Glucose-109* UreaN-9 Creat-0.6 Na-133 
K-5.2* Cl-101 HCO3-25 AnGap-12
___ 05:20AM BLOOD Glucose-90 UreaN-9 Creat-0.7 Na-135 K-4.3 
Cl-102 HCO3-29 AnGap-8
___ 05:10AM BLOOD Glucose-132* UreaN-9 Creat-0.7 Na-135 
K-3.9 Cl-103 HCO3-26 AnGap-10
___ 05:20AM BLOOD Glucose-148* UreaN-7 Creat-0.7 Na-136 
K-4.2 Cl-99 HCO3-27 AnGap-14
___ 07:05AM BLOOD Glucose-112* UreaN-10 Creat-0.7 Na-136 
K-4.4 Cl-101 HCO3-26 AnGap-13
___ 07:50AM BLOOD Glucose-173* UreaN-12 Creat-0.7 Na-134 
K-3.9 Cl-99 HCO3-30 AnGap-9
___ 07:10AM BLOOD Glucose-117* UreaN-10 Creat-0.6 Na-138 
K-3.8 Cl-102 HCO3-28 AnGap-12
___ 07:00AM BLOOD Glucose-161* UreaN-11 Creat-0.6 Na-135 
K-4.1 Cl-100 HCO3-26 AnGap-13

LFTs
___ 09:38PM BLOOD ALT-931* AST-911* AlkPhos-231* 
TotBili-2.0*
___ 05:20AM BLOOD ALT-861* AST-957* LD(LDH)-278* 
AlkPhos-195* TotBili-2.2*
___ 05:10AM BLOOD ALT-825* AST-933* AlkPhos-182* 
TotBili-2.7*
___ 05:20AM BLOOD ALT-882* AST-793* AlkPhos-213* 
TotBili-2.6*
___ 07:05AM BLOOD ALT-658* AST-471* AlkPhos-192* 
TotBili-1.6*
___ 07:50AM BLOOD ALT-515* AST-328* AlkPhos-183* 
TotBili-1.3
___ 07:10AM BLOOD ALT-415* AST-237* LD(LDH)-125 
AlkPhos-181* TotBili-1.0
___ 07:00AM BLOOD ALT-379* AST-201* AlkPhos-147* 
TotBili-1.0

Lipase
___ 09:38PM BLOOD Lipase-61*
___ 05:20AM BLOOD Lipase-54

Chemistry
___ 09:38PM BLOOD Albumin-3.9 Iron-31
___ 05:20AM BLOOD Albumin-3.5 Calcium-8.7 Phos-4.1 Mg-2.0 
Iron-29*
___ 05:10AM BLOOD Albumin-3.4 Calcium-8.4 Phos-4.1 Mg-1.9
___ 05:20AM BLOOD Albumin-3.8 Calcium-9.6 Phos-4.1 Mg-1.9
___ 07:05AM BLOOD Albumin-3.6 Calcium-9.0 Phos-4.1 Mg-2.0
___ 07:50AM BLOOD Albumin-3.7 Calcium-8.8 Phos-4.6* Mg-2.0
___ 07:10AM BLOOD Albumin-3.5 Calcium-9.0 Phos-6.2*# Mg-2.0
___ 07:00AM BLOOD Albumin-3.3* Calcium-8.9 Phos-4.6*# 
Mg-1.9

Iron Studies
___ 09:38PM BLOOD calTIBC-593* Ferritn-18 TRF-456*
___ 05:20AM BLOOD calTIBC-546* Ferritn-24 TRF-420*

Misc
___ 08:40AM BLOOD HBsAg-NEGATIVE HBsAb-POSITIVE 
HBcAb-NEGATIVE HAV Ab-NEGATIVE
___ 11:59AM BLOOD AMA-NEGATIVE Smooth-POSITIVE *
___ 11:59AM BLOOD ___
___ 08:40AM BLOOD IgG-1711* IgM-243*
___ 08:40AM BLOOD Ethanol-NEG Acetmnp-NEG
___ 09:38PM BLOOD Ethanol-NEG Acetmnp-NEG
___ 08:40AM BLOOD HCV Ab-NEGATIVE

Urine
___ 09:38PM URINE Color-LtAmb Appear-Clear Sp ___
___ 09:38PM URINE Blood-SM Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-4* pH-5.5 Leuks-NEG
___ 09:38PM URINE RBC-0 ___ Bacteri-FEW Yeast-NONE 
___ 05:46PM URINE Color-Amber Appear-Cloudy Sp ___
___ 05:46PM URINE Blood-TR Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-SM  Urobiln-4* pH-5.5 Leuks-NEG
___ 05:46PM URINE RBC-0 WBC-0 Bacteri-NONE Yeast-NONE Epi-2
___ 05:46PM URINE Mucous-FEW
___ 07:50PM URINE bnzodzp-NEG barbitr-NEG opiates-POS 
cocaine-NEG amphetm-NEG mthdone-NEG

___ VIRUS VCA-IgG AB (Final ___: POSITIVE BY EIA. 

___ VIRUS EBNA IgG AB (Final ___: POSITIVE BY 
EIA. 
___ VIRUS VCA-IgM AB (Final ___: NEGATIVE <1:10 
BY IFA. 
      INTERPRETATION: RESULTS INDICATIVE OF PAST EBV INFECTION. 

MONOSPOT (Final ___: NEGATIVE by Latex Agglutination. 

CMV IgG ANTIBODY (Final ___: POSITIVE FOR CMV IgG ANTIBODY 
BY EIA. 
      164 AU/ML. 
CMV IgM ANTIBODY (Final ___: POSITIVE FOR CMV IgM ANTIBODY 
BY EIA (LOW POSITIVE). 

CMV Viral Load (Final ___: CMV DNA not detected.

Pathology: Liver, needle core biopsy:
1.  Moderate portal, periportal, and lobular mixed inflammation, 
consisting of lymphocytes, focally prominent plasma cells, 
neutrophils, and rare eosinophils, with numerous apoptotic 
hepatocytes (Grade 2).
2.  Prominent lobular disarray and regeneration with scattered 
lymphohistiocytic aggregates.
3.  No steatosis or balloon cell degeneration is identified.
4.  Trichrome stain demonstrates mildly increased portal 
fibrosis with focal, early septa formation (Stage 1 - 2). 
5.  Iron stain is negative for iron deposition.  
Note:  The features are those of a chronic, markedly active 
hepatitis, consistent with the provided clinical history of 
previously documented autoimmune hepatitis.  Other causes of 
chronic active hepatitis such as due to viral or drug-related 
etiologies remain within the histologic differential. 

___ U/S: 1. Partially contracted gallbladder without 
evidence of stone and no acute cholecystitis. 2. Splenomegaly. 
3. Borderline echogenic liver compatible with minimal fatty 
infiltrates. No focal hepatic lesions. 
 
Brief Hospital Course:
#. Abdominal pain: Liver biopsy found to be consistent with 
autoimmune hepatitis. The patient was restarted on prednisone & 
azathioprine therapy. Viral serologies were negative. No focal 
lesions were seen on U/S. The patient required frequent 
reassurance in response to her anxiety regarding the emotional 
effect that prednisone was going to have. Her LFTs trended 
downwards while on prednisone and azathioprine, and she was 
discharged with close hepatology follow up and instructions for 
a further prednisone taper. 
.  
# Anemia: Iron studies were consistent with iron deficiency 
anemia. The patient was restarted on iron supplementation, a 
recommendation which had been documented on past discharge 
summaries, obtained from outside hospitals.
 
Medications on Admission:
Adderall 30mg BID 
 
Discharge Medications:
1. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
2. Ascorbic Acid ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Azathioprine 50 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).
Disp:*45 Tablet(s)* Refills:*0*
4. Prednisone 10 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily) for 4 days: last day ___.
Disp:*12 Tablet(s)* Refills:*0*
5. Prednisone 10 mg Tablet Sig: Two (2) Tablet PO once a day: 
starting on ___ and onwards.
Disp:*60 Tablet(s)* Refills:*2*
6. Protonix 40 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day: please take while 
on prednisone to prevent GI upset.
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
7. Calcium Citrate + D  Oral
8. Dilaudid 2 mg Tablet Sig: ___ Tablets PO every six (6) hours 
as needed for pain: do not take this medication while driving or 
operating heavy machinery as it can make you sleepy. do not 
drink alcohol with this medication.
Disp:*45 Tablet(s)* Refills:*0*
9. Adderall 30 mg Tablet Sig: One (1) Tablet PO twice a day.  
10. Ativan 1 mg Tablet Sig: One (1) Tablet PO q12 as needed for 
anxiety for 7 days: please do not take this medication with 
alcohol or other sedating meds. do not drive with this 
medication as it can make you sleepy.
Disp:*14 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Autoimmune hepatitis
.
Secondary Diagnosis:
Hypertension
Low back pain
Anxiety

 
Discharge Condition:
Medically stable for discharge home.

 
Discharge Instructions:
Ms. ___,

You were admitted to the hospital for abdominal pain and nausea. 
You were found to have significantly elevated liver tests and 
underwent a liver biopsy. Analysis of your liver sample revealed 
autoimmune hepatitis. You were placed on a prednisone taper as 
well as azathioprine (Imuran). Your liver tests improved 
significantly.
.
You should take all of your medications as directed. You should 
keep all of your medical appointments (listed below).
.
We started you on a prednisone taper. You should continue to 
take your current dose of prednisone of 30 mg for 4 more days 
(last day, ___. Starting on ___, you should 
take 20 mg per day. Please discuss this dosing with Dr. ___ at 
your ___ appointment.

Other than prednisone, you have been started on the following 
new medications:
1. Pantoprazole 40 mg by mouth daily to protect from GI upset 
while on prednisone
2. Calcium and Vitamin D - You should take Calcium and Vitamin D 
supplements which you can buy over the counter while you are on 
prednisone to prevent weak bones
3. Dilaudid - You have been given a prescription for dilaudid to 
use only for severe abdominal pain.  Please address pain control 
with your new primary care provider.  Do not drive, operate 
heavy machinery, or drink while taking this medication as it can 
make you sleepy and it interacts with alcohol badly.

Please abstain from drinking alcohol.  If you need tylenol, you 
should only take 2 gm / day maximum given your hepatitis.

If you have any of the following symptoms, please call your 
doctor or go to the nearest ER: fever>101, chest pain, shortness 
of breath, increasing abdominal pain, or any other concerning 
symptoms.
 
Followup Instructions:
___